US07816371B2
a. 6-Bromo-5-nitro-1H-isochromen-1-one
A pressure tube (150 mL) was charged with methyl 4-bromo-2-methyl-3-nitrobenzoate (2.1 g, 0.0077 mol), 1,1-dimethoxy-N,N-dimethylmethanamine (3.6 mL, 0.027 mol) and N,N-dimethylformamide (5 mL, 0.06 mol) and heated at 120° C. for 20 hours. The reaction gave multiple products. The solvent was removed and the residue was dissolved in Ethyl acetate (100 mL, 1 mol). Silica Gel (20 g, 0.3 mol) was then added and the reaction stirred at room temperature for 12 h. The reaction was filtered and the solvent removed and the residue purified by flash chromatography. MS m/z=271.2 (M+H).

reactant | methyl 4-bromo-2-methyl-3-nitrobenzoate | 0.0077 mol, 2.1 g | BrC1=C(C(=C(C(=O)OC)C=C1)C)[N+](=O)[O-] | C9H8BrNO4
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 0.027 mol, 3.6 mL | COC(N(C)C)OC | C5H13NO2
reactant | N,N-dimethylformamide | 0.06 mol, 5 mL | CN(C=O)C | C3H7NO
reactant | Ethyl acetate | 1 mol, 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-Bromo-5-nitro-1H-isochromen-1-one | BrC=1C(=C2C=COC(C2=CC1)=O)[N+](=O)[O-] | C9H4BrNO4
